US09107916B2
C. 2-[5-[(4-cyclopropyl-2-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-cyclopropyl-2-fluorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (800 MHz, CDCl3): δ 0.68-0.73 (2H, m), 0.99-1.04 (2H, m), 1.86-1.92 (1H, m), 5.24 (2H, s), 5.80 (1H, d, J=4.0 Hz), 6.78 (1H, dd, J=4.0 Hz, 23.2 Hz), 6.88 (1H, dd, J=3.2 Hz, 16.0 Hz), 7.30-7.34 (1H, m), 7.39 (1H, dd, J=1.6 Hz, 9.6 Hz), 7.57 (1H, d, J=3.2 Hz), 8.00 (1H, s), 8.69 (1H, d, J=9.6 Hz). [M+H] Calc'd for C19H15FN4O, 335. Found, 335.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-cyclopropyl-2-fluorophenyl)methanol | C1(CC1)C1=CC(=C(C=C1)CO)F | C10H11FO
product | 2-[5-[(4-cyclopropyl-2-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | C1(CC1)C1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)F | C19H15FN4O
